US07576217B2
1-(6-Bromo-2-ethyl-4-phenyl-quinolin-3-yl)-propan-1-one
The title compound was prepared according to the general procedure of method A. The (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] (on 0.1-1 g scale) and 3,5-heptanedione (1.5 equiv) and sodium tetrachloroaureate(III) dihydrate (0.025 equiv) were heated in parallel in a Radley carousel under nitrogen in ethanol (10% w/w-solution of (2-Amino-5-bromo-phenyl)-phenyl-methanone) and reacted for 24 h. The reaction mixture was evaporated to dryness and the residue purified by chromatography on silica gel in heptane/ethyl acetate (20:1). Yield: 37%. MS: m/z=368 (M).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | 0.1-1 g | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 3,5-heptanedione | 1.5 equiv | CCC(CC(CC)=O)=O | C7H12O2
reactant | sodium | 0.025 equiv | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 1-(6-Bromo-2-ethyl-4-phenyl-quinolin-3-yl)-propan-1-one | Yield: 37% | BrC=1C=C2C(=C(C(=NC2=CC1)CC)C(CC)=O)C1=CC=CC=C1 | C20H18BrNO
